* C:\Users\elima\.julia\dev\DesignDriveCoilFilt\src\Filter_Archetype_Damped_2.asc
V1 N013 0 AC 1
LFilt1 N006 N005 100u Rser=100m
CLFilt_C1 N001 N006 400n
RSrc N005 N013 1m
LFilt2 N007 N001 100u Rser=100m
CLFilt_C2 N002 N007 400n
LCFilt_L N001 0 100u Rser=100m
CFilt N001 0 400n
LNotch N003 N016 10
CNotch N016 0 1p
LNotch_Tune N003 N002 1p
LTee1 N009 N004 1p
LTee2 N010 N009 1p
CPar N009 0 1.5u
CSer N011 N010 10
CDrive N012 N011 66.7n
LDrive N012 N014 596u
RDrive N014 0 .75
RDamp1 N002 N001 1Meg
LDamp N008 N003 1p
CDamp N004 N008 10
RDamp2 N004 N003 1Meg
LNotch2 N003 N015 10
CNotch2 N015 0 1p
.ac oct 1k 1k 500k
.backanno
.end
